US06008230
To a stirred suspension of 8-(2,6-dichlorobenzoylamino)-4-hydrazinoquinoline (216 mg) in pyridine (2 ml) was added a solution of methanesulfonyl chloride (78.4 mg) in dimethylformamide under ice-cooling, and the mixture was stirred for 50 minutes at the same temperature. The mixture was concentrated in vacuo, and ethyl acetate, methanol and water were added to the residue. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography and recrystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-4-(2-methanesulfonylhydrazino)quinoline (16 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-hydrazinoquinoline | 216 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NN)C(=CC=C1)Cl | C16H12Cl2N4O
reactant | methanesulfonyl chloride | 78.4 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorobenzoylamino)-4-(2-methanesulfonylhydrazino)quinoline | 16 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NNS(=O)(=O)C)C(=CC=C1)Cl | C17H14Cl2N4O3S
